US05238939
A mixture of 6,2 g of crude 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]piperazine dihydrochloride, 6,8 g of 1,1-bis(4-fluorophenyl)-4-chlorobutane, 6,6 g of potassium carbonate and 2,9 g of potassiun iodide in 200 ml of dimethylformamide was heated at 100° C. for 2 h. After hydrolysis the mixture was extracted with a mixture of diethyl ether and ethyl acetate. After drying and evaporation the dimaleate was prepared in absolute ethanol to give 8 g (54,8%) of 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]-4-[4,4-bis(4-fluorophenyl)butyl]-piperazine (Z)-2-butenedioate (1:2) salt. mp 175° C.

reactant | 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]piperazine dihydrochloride | 6,2 g | Cl.Cl.C(C)C1(OCCC2=C1C=C(C(=C2)OC)OC)CCN2CCNCC2
reactant | 1,1-bis(4-fluorophenyl)-4-chlorobutane | 6,8 g | FC1=CC=C(C=C1)C(CCCCl)C1=CC=C(C=C1)F | C16H15ClF2
reactant | potassium carbonate | 6,6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodide | 2,9 g | [I-]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]-4-[4,4-bis(4-fluorophenyl)butyl]-piperazine (Z)-2-butenedioate | 8 g, 54,8% | C(\C=C/C(=O)O)(=O)O.C(C)C1(OCCC2=C1C=C(C(=C2)OC)OC)CCN2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | InChI=1S/C35H44F2N2O3.C4H4O4/c1-4-35(32-25-34(41-3)33(40-2)24-28(32)15-23-42-35)16-18-39-21-19-38(20-22-39)17-5-6-31(26-7-11-29(36)12-8-26)27-9-13-30(37)14-10-27;5-3(6)1-2-4(7)8/h7-14,24-25,31H,4-6,15-23H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
